US04226872
Using the procedure of Example 1, the acid chloride of 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid is reacted with (6-benzoyl-2-pyridyl)methanol to yield (6-benzoyl-2-pyridyl)methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate, MS m/e 490 (M+).

reactant | 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)O)C(C)C | C12H13ClF3NO2
reactant | (6-benzoyl-2-pyridyl)methanol | C(C1=CC=CC=C1)(=O)C1=CC=CC(=N1)CO | C13H11NO2
product | (6-benzoyl-2-pyridyl)methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OCC1=NC(=CC=C1)C(C1=CC=CC=C1)=O)C(C)C | C25H22ClF3N2O3
